USRE028973
2-methyl-3-{2-[3-(3,4,5-trimethoxybenzoyloxy)pyrrolidinyl] ethyl}indole
To a suspension of 5 g. (0.02 mole) of 2-methyl-3-[2-(3-hydroxypyrrolidinyl)ethyl]indole and 8 g. (0.075 mole) of sodium carbonate in 40 ml. of chloroform was added 4.2 g. (0.018 mole) of 3,4,5-trimethoxybenzoyl chloride in 30 ml. of chloroform. The mixture was stirred under anhydrous conditions for 24 hours, then treated with 25 ml. of water and stirred an additional hour. The chloroform layer was separated, dried over magnesium sulfate and evaporated on a rotating evaporator to a viscous oil.

reactant | 2-methyl-3-[2-(3-hydroxypyrrolidinyl)ethyl]indole | 0.02 mole | CC=1NC2=CC=CC=C2C1CCN1CC(CC1)O | C15H20N2O
reactant | sodium carbonate | 0.075 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.018 mole | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | water | O | H2O
product | 2-methyl-3-{2-[3-(3,4,5-trimethoxybenzoyloxy)pyrrolidinyl] ethyl}indole | CC=1NC2=CC=CC=C2C1CCN1CC(CC1)OC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C25H30N2O5
